US08084481B2
[2-chloro-3-(trifluoromethyl)phenyl]-methylammonium trifluoroacetate
1.75 g of Rink-Amid® (0.96 mmol) is activated (FMOC cleavage) by stirring with 10 ml of a 25% solution of piperidine in DMF for 30 mins, then filtration of the resin and renewed treatment with 10 ml of a 25% solution of piperidine in DMF for 30 mins. The polymer is filtered off at the pump, washed successively three times each with DMF, methanol and dichloromethane and then allowed to swell in 10 ml of trimethyl orthoformate (TMOF). 400 mg (1.9 mmol) of 2-chloro-3-(trifluoromethyl)benzaldehyde are added and the suspension stirred for 5 hrs. The polymer is then filtered off, washed successively three times each with DMF, methanol and dichloromethane and dried on the rotary evaporator. The polymer is again allowed to preswell in 10 ml TMOF, then 987 mg (3.84 mmol) tetrabutylammonium borohydride are added and, slowly, 878 μl (15 mmol) of acetic acid. The suspension is stirred overnight at RT. The polymer is filtered off at the pump and washed successively five times each with DMF, methanol and dichloromethane. Next it is stirred with 20 ml trifluoroacetic acid/dichloromethane (1:1). After 1 hr, the polymer is filtered off at the pump and washed with dichloromethane. The filtrate is freed of the volatile components on the rotary evaporator and the residue briefly dried under high vacuum. 170 mg (27% of theory) of the title compound in acceptable purity (>50%), which is further used in this form, are obtained.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 2-chloro-3-(trifluoromethyl)benzaldehyde | 1.9 mmol, 400 mg | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | tetrabutylammonium borohydride | 3.84 mmol, 987 mg | [BH4-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 15 mmol, 878 μl | C(C)(=O)O | C2H4O2
reactant | DMF | CN(C)C=O | C3H7NO
product | [2-chloro-3-(trifluoromethyl)phenyl]-methylammonium trifluoroacetate | FC(C(=O)[O-])(F)F.ClC1=C(C=CC=C1C(F)(F)F)[NH2+]C | InChI=1S/C8H7ClF3N.C2HF3O2/c1-13-6-4-2-3-5(7(6)9)8(10,11)12;3-2(4,5)1(6)7/h2-4,13H,1H3;(H,6,7)
